US04692184
Preparation of diethyl 2-(difluoromethyl)-4-isobutyl-6-(trifluoromethyl)-3,5-pyridinedicarboxylate
A mixture of 10.0 g (0.0240 mole) of diethyl 2,6-bis(trifluoromethyl)-1,4-dihydro-4-isobutyl-3,5-pyridinedicarboxylate, 3.65 g (0.0240 mole) of DBU and 150 ml of THF is held at reflux for 18 hours and concentrated. The residue is dissolved in ether and washed with diluted hydrochloric acid, dried (MgSO4) and concentrated. The residue is kugelrohr distilled at 0.1 torr to give 4.80 g (50%) of the desired product as an oil, nD25 1.4436.

reactant | diethyl 2,6-bis(trifluoromethyl)-1,4-dihydro-4-isobutyl-3,5-pyridinedicarboxylate | 0.0240 mole, 10.0 g | FC(C=1NC(=C(C(C1C(=O)OCC)CC(C)C)C(=O)OCC)C(F)(F)F)(F)F | C17H21F6NO4
reactant | DBU | 0.0240 mole, 3.65 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | diethyl 2-(difluoromethyl)-4-isobutyl-6-(trifluoromethyl)-3,5-pyridinedicarboxylate | 4.80 g, 50% | FC(C1=NC(=C(C(=C1C(=O)OCC)CC(C)C)C(=O)OCC)C(F)(F)F)F | C17H20F5NO4
